US04959482
To a stirred mixture of 0.3 g (7.5 mmol) of 60% sodium hydride in a mineral dispersion previously washed with hexane, in 20 ml of dimethylsulfoxide, there was added 2 g (6.9 mmol) of 1-(3,5-di-tert-butyl-4-hydroxyphenyl)pyrrolidin-2-one. Gas evolution was observed. Twenty minutes later, 1 g (7 mmol) of iodomethane was added. The reaction mixture was stirred for thirty minutes and then diluted with 70 ml of water. The precipitated solid was collected by filtration and recrystallized from acetonehexane to yield 1.7 g (5.6 mmol) of 1-(3,5-di-tert-butyl-4-methoxyphenyl)pyrrolidin-2-one, melting point 90°-91° C.

reactant | sodium hydride | 7.5 mmol, 0.3 g | [H-].[Na+]
reactant | 1-(3,5-di-tert-butyl-4-hydroxyphenyl)pyrrolidin-2-one | 6.9 mmol, 2 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)N1C(CCC1)=O | C18H27NO2
reactant | iodomethane | 7 mmol, 1 g | IC | CH3I
solvent | water | 70 ml | O | H2O
product | 1-(3,5-di-tert-butyl-4-methoxyphenyl)pyrrolidin-2-one | 5.6 mmol, 1.7 g | C(C)(C)(C)C=1C=C(C=C(C1OC)C(C)(C)C)N1C(CCC1)=O | C19H29NO2
